US07939552B2
2-Hydroxy-1-phenylethanone (49.39 g, 297 mmol), ethylene glycol (84 mL, 1500 mmol), p-toluenesulfonic acid monohydrate (1.0 g) and benzene (500 mL) were added to a one-liter eggplant type flask equipped with a Dean-Stark dehydrating device and heated to reflux for 24 hours. The solvent was evaporated in vacuo, water and ethyl acetate were added to the resulting residue and the organic layer was separated. An aqueous layer was further extracted with ethyl acetate twice and the organic layers were combined and washed with a saturated saline solution. It was dried over anhydrous sodium sulfate, the solvent was evaporated therefrom in vacuo and the resulting crude product was purified by a silica gel column chromatography (toluene:ethyl acetate=4:1) to give (2-phenyl-[1,3]dioxolan-2-yl)methanol (52.30 g, 98%) as an oily product. 1H-NMR (DMSO-d6) δ: 3.51 (d, J=6.4 Hz, 2H), 3.74-3.78 (m, 2H), 4.01-4.05 (m, 2H), 4.09 (t, J=6.4 Hz, 1H), 7.28-7.36 (m, 3H), 7.40-7.43 (m, 2H).

reactant | 2-Hydroxy-1-phenylethanone | 297 mmol, 49.39 g | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | ethylene glycol | 1500 mmol, 84 mL | C(CO)O | C2H6O2
catalyst | p-toluenesulfonic acid monohydrate | 1.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 500 mL | C1=CC=CC=C1 | C6H6
product | (2-phenyl-[1,3]dioxolan-2-yl)methanol | 52.30 g, 98% | C1(=CC=CC=C1)C1(OCCO1)CO | C10H12O3
